US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,5-dimethoxy-4-(2-diethylamino-ethyl)-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Combine 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,5-dimethoxy-4-hydroxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide (1 mmol) and sodium hydride (2 mmol) in tetrahydrofuran (10 mL). Add diethylaminoethylchloride hydrochloride (1 mmol). After 24 hours, partition the the reaction mixture between water and ethyl acetate. Separate the organic layer, dry over MgSO4, filter, and evaporate in vacuo to give the title compound.

reactant | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,5-dimethoxy-4-hydroxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | 1 mmol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)O)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C33H37Cl2N3O5
reactant | sodium hydride | 2 mmol | [H-].[Na+]
reactant | diethylaminoethylchloride hydrochloride | 1 mmol | Cl.C(C)N(CC)CCCl
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,5-dimethoxy-4-(2-diethylamino-ethyl)-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)CCN(CC)CC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C39H50Cl2N4O4
